US06369110B1
A 37% aqueous formaldehyde solution (1.50 g, 18.4 mmol), sodium cyanotrihydroborate (0.12 g, 18.4 mmol) and acetic acid (0.1 ml) were added to a solution in acetonitrile (8 ml) of the ethyl 2,3-dihydro-1H-benz[b]azepine-4-carboxylate (0.40 g, 1.84 mmol) synthesized in Reference Example 5. After stirring at room temperature for 2 hours, the reaction mixture was poured into a 1N aqueous sodium hydroxide solution and extracted twice with diethyl ether. The extract solution was washed twice with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=4/96) to obtain 0.40 g of ethyl 1-methyl-2,3-dihydro-1H-benz[b]azepine-4-carboxylate.

reactant | formaldehyde | 18.4 mmol, 1.50 g | C=O | CH2O
reactant | sodium cyanotrihydroborate | 18.4 mmol, 0.12 g | [B-]C#N.[Na+]
reactant | ethyl 2,3-dihydro-1H-benz[b]azepine-4-carboxylate | 1.84 mmol, 0.40 g | N1C2=C(C=C(CC1)C(=O)OCC)C=CC=C2 | C13H15NO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | ethyl 1-methyl-2,3-dihydro-1H-benz[b]azepine-4-carboxylate | 0.40 g | CN1C2=C(C=C(CC1)C(=O)OCC)C=CC=C2 | C14H17NO2
